US04187306
14.7 g (0.05 mol) of 2-bromomethyl-3-(2-methoxycarbonylphenyl)-4H-quinazolin-4-one and 25 ml of liquid ammonia in 100 ml of ethylene glycol monomethyl ether are heated to 100° C. for 5 hours in an autoclave. After cooling the mixture, the colourless crystals are filtered off and washed several times with methanol. 6.1 g (44% theory) of 6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione are obtained.

reactant | 2-bromomethyl-3-(2-methoxycarbonylphenyl)-4H-quinazolin-4-one | 0.05 mol, 14.7 g | BrCC1=NC2=CC=CC=C2C(N1C1=C(C=CC=C1)C(=O)OC)=O | C17H13BrN2O3
reactant | ammonia | N | H3N
solvent | ethylene glycol monomethyl ether | 100 ml | COCCO | C3H8O2
product | 6,7-dihydro-5H,13H-quinazolino[3,2-a][1,4]benzodiazepine-5,13-dione | 6.1 g, 44% | C1=CC=CC=2C(NCC=3N(C21)C(C=2C=CC=CC2N3)=O)=O | C16H11N3O2
